US07589206B2
(a) 2-(Carboxymethyl)-1,5-dimethyl-1H-pyrrole-3-carboxylic acid
A mixture of 2-chloro-1,1-bis(methyloxy)propane (31 ml), 1,4-dioxan (20 ml), water (20 ml) and concentrated hydrochloric acid (7.2 ml) was heated under reflux for 30 minutes. After cooling in an ice bath, sodium bicarbonate (7.2 g) was added portionwise. The mixture which contained 2-chloropropionaldehyde was stirred for stirred for a further thirty minutes. In the meantime methylamine (40% in water, 110 ml) and water (20 ml) were cooled in an ice bath and 1,3-acetonedicarboxylic acid (20 g) was added portionwise whilst keeping the temperature below 20° C. After cooling to 110° C., the solution containing the 2-chloropropionaldehyde was added slowly whilst keeping the temperature below 15° C. The reaction mixture was stirred at 15° C. for one hour, then at room temperature for sixteen hours. The reaction mixture was cooled, acidified to pH 1 by the addition of 5N hydrochloric acid, and the resulting solid collected by filtration. The solid was washed with cold water, then diethyl ether. After drying, the solid washed with diethyl ether, and then dried, to afford the title compound as a buff solid 11.85 g.

reactant | 2-chloro-1,1-bis(methyloxy)propane | 31 ml | ClC(C(OC)OC)C | C5H11ClO2
reactant | hydrochloric acid | 7.2 ml | Cl | ClH
reactant | sodium bicarbonate | 7.2 g | C([O-])(O)=O.[Na+]
reactant | 2-chloropropionaldehyde | ClC(C=O)C | C3H5ClO
reactant | methylamine | 110 ml | CN | CH5N
reactant | 1,3-acetonedicarboxylic acid | 20 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(Carboxymethyl)-1,5-dimethyl-1H-pyrrole-3-carboxylic acid | C(=O)(O)CC=1N(C(=CC1C(=O)O)C)C | C9H11NO4
